US06391882B1
A solution of 1-t-butoxycarbonyl-4-(1H-indol-4-yl)piperazine (prepared as described above) in tetrahydrofuran (50 mL) was added dropwise to a suspension of sodium hydride (0.7 g of a 60% mineral oil suspension) in tetrahydrofuran (150 mL) at room temperature. After stirring for further 30 min a solution of allyl bromide (3.5 mL) in tetrahydrofuran (50 mL) was added dropwise. After stirring for 48 h the mixture was poured onto ice-water followed by standard work-up with ethyl acetate giving an oil, which was purified by flash chromatography (eluent: heptane/ethyl acetate 85:15) giving 1-t-butoxycarbonyl-4-(1-allyl-1H-indol-4-yl)piperazine as an oil (3.2 g). The oil was dissolved in methanol (15 mL) and a saturated solution of HCl in diethyl ether (100 mL) was added. After stirring for 16 h at room temperature, the resulting colorless crystals consisting of the hydrochloride of the title compound (2.5 g) was collected by filtration and dried in vacuo.

reactant | 1-t-butoxycarbonyl-4-(1H-indol-4-yl)piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C=CNC2=CC=C1 | C17H23N3O2
reactant | sodium hydride | [H-].[Na+]
reactant | allyl bromide | 3.5 mL | C(C=C)Br | C3H5Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1-t-butoxycarbonyl-4-(1-allyl-1H-indol-4-yl)piperazine | 3.2 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C=CN(C2=CC=C1)CC=C | C20H27N3O2
